US06509324B1
C) N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-(2-hydroxyethyl)-L-tryptophan 1,1-Dimethylethyl Ester
A jacketed reactor is loaded with a solution of N-[2-(1,1-dimethylethoxy)-2-oxoethyl]-L-tryptophan 1,1-dimethylethyl ester (5 g; 13.35 mol) prepared at point B, in CH3CN (25 mL). To the solution cooled to −80° C. is added ethylene oxide (13 mL; 0.26 mol) and ytterbium triflate (0.83 g; 1.34 mol). The mixture is then slowly warmed to room temperature then, after 15 hours, diluted with water (50 mL) and extracted with Et2O (3×50 mL). The organic phases are evaporated to dryness to obtain a crude which is purified by flash chromatography (eluent n-hexane/EtOAc 7:3) to give the desired product as a pale yellow oil (4.32 g; 10.32 mol).

reactant | N-[2-(1,1-dimethylethoxy)-2-oxoethyl]-L-tryptophan 1,1-dimethylethyl ester | 13.35 mol, 5 g | CC(C)(C)OC([C@@H](NCC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O | C21H30N2O4
reactant | ytterbium triflate | 1.34 mol, 0.83 g | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | CH3CN | 25 mL | CC#N | C2H3N
solvent | water | 50 mL | O | H2O
catalyst | ethylene oxide | 0.26 mol, 13 mL | C1CO1 | C2H4O
product | N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-(2-hydroxyethyl)-L-tryptophan 1,1-Dimethylethyl Ester | 10.32 mol, 4.32 g, Yield: 77% | CC(C)(C)OC([C@@H](N(CCO)CC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O | C23H34N2O5
